US07056918B2
5-(1-Allyl-3-m-tolyl-1H-pyrazol-4-yl)-1,3-diethyl-1,3-dihydro-benzoimidazol-2-one (obtained in the using the same procedure as utilized for the preparation of [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-acetic acid tert-butyl ester (0.135 g), substituting allyl iodide for t-butyl bromoacetate) (0.107 g) was diluted with t-butanol (3 mL). To this solution was added water (3 mL), sodium periodate (0.120 g) and catalytic osmium tetroxide (0.1 mL, 2.5% solution in t-butanol). The mixture was stirred at 23° C. for 2 hours then was diluted with ethylacetate and saturated sodium bicarbonate and extracted. The organic layer was dried over sodium sulfate and concentrated. Subsequent chromatography on silica gel gave [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-acetaldehyde (0.06 g).

reactant | [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-acetic acid tert-butyl ester | 0.135 g | C(C)(C)(C)OC(CN1N=CC(=C1C=1C=C(C=CC1)C)C1=CC2=C(N(C(N2CC)=O)CC)C=C1)=O | C27H32N4O3
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | 3 mL | O | H2O
reactant | sodium periodate | 0.120 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | t-butanol | 3 mL | C(C)(C)(C)O | C4H10O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | osmium tetroxide | 0.1 mL | [Os](=O)(=O)(=O)=O
product | [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-3-m-tolyl-pyrazol-1-yl]-acetaldehyde | 0.06 g | C(C)N1C(N(C2=C1C=CC(=C2)C=2C(=NN(C2)CC=O)C=2C=C(C=CC2)C)CC)=O | C23H24N4O2
